US04661489
1-(2-Phenoxyethyl)-4-benzyl-2-hydroxy-6-oxopiperazine
1-(2-Phenoxyethyl)-4-benzyl-2,6-piperazinedione (2.24 g) in ethanol (60 ml) and saturated sodium bicarbonate solution (15 ml) was cooled to 5° and sodium borohydride (0.4 g) added. The mixture was stirred at 5° for 1 h, water (150 ml) added and the mixture extracted with chloroform (3×75 ml). Evaporation of the chloroform gave the title compound as an off-white solid (2.1 g).

reactant | 1-(2-Phenoxyethyl)-4-benzyl-2,6-piperazinedione | 2.24 g | O(C1=CC=CC=C1)CCN1C(CN(CC1=O)CC1=CC=CC=C1)=O | C19H20N2O3
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
product | 1-(2-Phenoxyethyl)-4-benzyl-2-hydroxy-6-oxopiperazine | 2.1 g | O(C1=CC=CC=C1)CCN1C(CN(CC1=O)CC1=CC=CC=C1)O | C19H22N2O3
